US06844345B2
c) (R)-(2-{5-Bromo-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-6-methyl-indol-1-yl}-propyl)-carbamic acid tert-butyl ester
To a solution of 0.95 g 5-bromo-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-6-methyl-1H-indole in 10 mL N,N-dimethylformamide was added 0.143 g sodium hydride (55-65%, mineral oil) and the mixture was stirred 30 min at room temperature. To the resulting mixture was added (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (0.703 g) and the mixture was stirred 2 h at room temperature. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was washed with 10% citric acid and brine, dried over magnesium sulfate and purified by chromatography on silica gel with 5:1 hexane:ethyl acetateto yield 0.789 g of the title compound as a slightly yellow oil. MS: M+H=541.3.

reactant | 5-bromo-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-6-methyl-1H-indole | 0.95 g | BrC=1C=C2C=C(NC2=CC1C)C(O[SiH](C)C)C(C(C)C)(C)C | C18H28BrNOSi
reactant | sodium hydride | 0.143 g | [H-].[Na+]
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 0.703 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (R)-(2-{5-Bromo-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-6-methyl-indol-1-yl}-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@@H](C)N1C(=CC2=CC(=C(C=C12)C)Br)C(O[SiH](C)C)C(C(C)C)(C)C)=O | C26H43BrN2O3Si
